US08030497B2
b) C-[2-(4-Isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-methylamine
To a solution of 100 mg (0.286 mmol) 2-(4-Isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbonitrile in 4 ml THF, LiAlH4 (54 mg, 1.43 mmol) is added. The reaction mixture is stirred at reflux temperature for 2 h. After that methanol (0.5 ml) and 5 ml 15% NaOH-solution is added. This mixture is filtered and the filtrate is extracted (3×) with EtOAc. The combined organic layers are washed with water (2×) and brine, dried over MgSO4, filtered and concentrated in vacuo to afford 60 mg of the title compound as an oil.

reactant | 2-(4-Isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbonitrile | 0.286 mmol, 100 mg | C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCOC)C(=CC(=C2)C#N)OC | C21H23N3O2
reactant | LiAlH4 | 1.43 mmol, 54 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methanol | 0.5 ml | CO | CH4O
reactant | NaOH | 5 ml | [OH-].[Na+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | C-[2-(4-Isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-methylamine | 60 mg | C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCOC)C(=CC(=C2)CN)OC | C21H27N3O2
